US08604055B2
Step (ii): Synthesis of (5-{[(3,5-bis-trifluoromethyl-benzyl)-(4-trifluoromethyl-oxazol-2-yl)-amino]-methyl }-1,3-dimethyl-1H-pyrazolo[3,4-b]-pyridin-6-yl)-cyclopentylmethyl-ethyl-amine
To a stirred solution of 1-(3,5-bis-trifluoromethyl-benzyl)-1-[6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-ylmethyl]-urea (0.250 g, 0.430 mmol) in tert-butanol (10 mL) was added 1,1,1-trifluoromethyl acetyl bromide (0.20 g, 0.480 mmol). This mixture was refluxed for 3 h and then cooled to RT. After concentration in vacuo, water (10 mL) was added to the residue, and the product was extracted with ethyl acetate (3×25 mL). The combined organic layers were dried over sodium sulfate and concentrated under vacuum to afford the crude residue, which was purified by column chromatography over 100-200 mesh silica gel using 5% ethyl acetate and petroleum ether, to yield the title compound as a white solid (yield: 20%).

reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-1-[6-(cyclopentylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-ylmethyl]-urea | 0.430 mmol, 0.250 g | FC(C=1C=C(CN(C(=O)N)CC=2C=C3C(=NC2N(CC)CC2CCCC2)N(N=C3C)C)C=C(C1)C(F)(F)F)(F)F | C27H32F6N6O
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | (5-{[(3,5-bis-trifluoromethyl-benzyl)-(4-trifluoromethyl-oxazol-2-yl)-amino]-methyl }-1,3-dimethyl-1H-pyrazolo[3,4-b]-pyridin-6-yl)-cyclopentylmethyl-ethyl-amine | yield: 20% | FC(C=1C=C(CN(C=2OC=C(N2)C(F)(F)F)CC=2C=C3C(=NC2N(CC)CC2CCCC2)N(N=C3C)C)C=C(C1)C(F)(F)F)(F)F | C30H31F9N6O
